US04599344
3-[2-(4-Chlorophenyl)ethylidene]-1-(3-sulfopropyl)-1-azoniabicyclo[2.2.2]octane hydroxide, inner salt
Combine 7.43 g (0.03 mole) of 3-[2-(4-chlorophenyl)ethylidene]-1-azabicyclo[2.2.2]octane and 5.49 g (0.045 mole) of 1,3-propanesultone in 30 ml of ethanol and heat at reflux for 1-2 hours. Follow the reaction by thin-layer chromatography on silica gel (acetonitrile:NH4OH, 90:10). At the completion of the reaction cool the mixture to -10° C. Collect the resulting solid by filtration and wash with cold ethanol to provide the title compound.

reactant | 3-[2-(4-chlorophenyl)ethylidene]-1-azabicyclo[2.2.2]octane | 0.03 mole, 7.43 g | ClC1=CC=C(C=C1)CC=C1CN2CCC1CC2 | C15H18ClN
reactant | 1,3-propanesultone | 0.045 mole, 5.49 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-[2-(4-Chlorophenyl)ethylidene]-1-(3-sulfopropyl)-1-azoniabicyclo[2.2.2]octane hydroxide | [OH-].ClC1=CC=C(C=C1)CC=C1C[N+]2(CCC1CC2)CCCS(=O)(=O)O | InChI=1S/C18H24ClNO3S.H2O/c19-18-6-3-15(4-7-18)2-5-17-14-20(10-1-13-24(21,22)23)11-8-16(17)9-12-20;/h3-7,16H,1-2,8-14H2;1H2
